US05070103
2-bromobenzaldehyde dimethylacetal and 3,4-dimethoxybenzaldehyde are reacted in the same manner as described in Example 1-(1), whereby 2-(3,4-dimethoxy-α-hydroxybenzyl)benzaldehyde dimethylacetal is obtained as pale yellow syrup.

reactant | 2-bromobenzaldehyde dimethylacetal | COC(C1=C(C=CC=C1)Br)OC | C9H11BrO2
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
product | 2-(3,4-dimethoxy-α-hydroxybenzyl)benzaldehyde dimethylacetal | Yield: 89% | COC(C1=C(C=CC=C1)C(C1=CC(=C(C=C1)OC)OC)O)OC | C18H22O5
